US04843087
A mixture of 68.07 g of anisaldehyde, 50.5 g of 2,3-butanedione mono-oxime and 150 ml of acetic acid was saturated with hydrogen chloride gas and the mixture was allowed to stand at room temperature for 3 hours. The solid product was collected and recrystallized from methanol to give 2-(4-methoxyphenyl)-4,5-dimethyloxazole N-oxide hydrochloride, m.p. 194°-196° C. The latter was converted to the free base for use in the next reaction by treatment with sodium bicarbonate solution.

reactant | anisaldehyde | 68.07 g | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | 2,3-butanedione mono-oxime | 50.5 g | CC(C(C)=O)=NO | C4H7NO2
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 2-(4-methoxyphenyl)-4,5-dimethyloxazole N-oxide hydrochloride | Cl.COC1=CC=C(C=C1)C=1OC(=C([N+]1[O-])C)C | InChI=1S/C12H13NO3.ClH/c1-8-9(2)16-12(13(8)14)10-4-6-11(15-3)7-5-10;/h4-7H,1-3H3;1H
